Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Band-Aid Clear Spots / Percocet / oxycodone
 
Attending: ___
 
Chief Complaint:
symptomatic fibroid uterus
 
Major Surgical or Invasive Procedure:
total abdominal hysterectomy, bilateral salpingectomy

 
History of Present Illness:
From consultation with Dr. ___ on ___:

Ms. ___ is a lovely ___ G2 ___ (TAB ×2)
premenopausal ___ female with OB (BMI 40.4),
hypertension, manic depressive disorder (well managed on meds),
and known fibroid uterus.  On review of the patient's presenting
history, she reports an episode of severe lower pelvic pain for
which she presented to ___ emergency room on ___.  A CT
scan was obtained that demonstrated a markedly enlarged fibroid
uterus with moderate bilateral hydronephrosis and hydroureter to
the level of the pelvis. She denies having a pelvic ultrasound. 
Labs revealed a normal creatinine of 0.9 and hematocrit of 33.4.

WORK UP
- CT (___) at ___: Moderate bilateral
hydronephrosis and hydroureter to the level of the pelvis.  No
calculus.  Markedly enlarged uterus 15 x 11 x 10 cm, compressing
ureters at the level of the pelvic inlet and ureteral vesicle
junction.  Hiatal hernia present.  No bowel abnormalities no
evidence of appendicitis or diverticulitis.
- LABS (30 ___ ___ Hosp ED: HCT  33.4 otherwise normal
CBC, Na 123 low otherwise normal chem- 7 BUN 13 Creatinine 0.9.

The patient was diagnosed with urinary retention and had a Foley
placed, which drained greater than 600 cc of urine.  Her
abdominal pain and bladder spasms resolved.  The Foley catheter
was left in place for 9 days (from ___ - ___. She was
discharged from ___ emergency room on Macrodantin 
for
presumptive treatment of UTI, Ditropan for bladder spasm
treatment, and Percocet for abdominal pain.  Patient reports
being able to void since Foley catheter was removed but 
continues
to experience urinary frequency.  Of note, immediately after the
Foley catheter was removed, she had her menses (LMP ___.  


On review the patient's gynecologic history, she reports regular
menses at baseline at one-month intervals with 7 days of 
moderate
flow.  Compared to her baseline bleeding, she reports her
menstrual bleeding has gotten lighter over the last few years. 
She does experience dysmenorrhea on day ___ over cycle. 

Patient presents today per your instructions to discuss her
markedly enlarged fibroid uterus manifesting with significant
compression/bulk symptoms with urinary frequency, occasional
urinary retention requiring Foley, and moderate bilateral
hydroureter.  She has no other gynecologic complaints today.  
 
Past Medical History:
GYNECOLOGIC HISTORY:  
- Menarche age ___, LMP ___.
- Reg cycles q1mo x 7 days mod flow (more recently, menstrual
bleeding is lighter than her usual baseline, dysmenorrhea ___,
not currently sexually active last unaware of dyspareunia.
- Pt is not currently sexually active, heterosexual.
- Contraception: Condoms as needed.
- STD History: h/o gonorrhea.

GYN HEALTHCARE MAINTENANCE:
- Last PAP (___): Negative SIL, TZ absent.  HPV neg.
- Denies h/o abnormal PAP. 
- Mammogram: Denies

MEDICAL PROBLEMS:  
1.  Hypertension
2.  Manic depressive disorder
3.  H/o gonorrhea
4.  Markedly enlarged multi-fibroid uterus
5.  Urinary frequency, retention
6.  Bilateral hydroureter
7.  BMI 40.4

SURGICAL HISTORY:  
- D&C ×2 (TAB ×2)
 
Social History:
___
Family History:
FAMILY HISTORY:
- Family h/o gynecologic cancers: Denies  Any GYN cancer such as
breast or ovarian cancer.  Denies any GI cancers.
- Maternal grandmother with diabetes and hypertension.
 
Physical Exam:
Vitals: stable and within normal limits 
General: NAD, comfortable
CV: RRR, normal s1 and s2, no m/r/g
Lungs: normal work of breathing, CTAB
Abdomen: soft, non-distended, appropriately tender to palpation
without rebound or guarding, incision with staples/dressing 
clean/dry/intact
GU: pad with no spotting
Extremities: no edema, no TTP
 
Pertinent Results:
none
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing total abdominal hysterectomy and 
bilateral salpingectomy. Please see the operative report for 
full details.
Intra-operative urine output was low (~10 cc/hr) due to 
obstruction by the uterus on the ureters. Urine output returned 
to adequate levels post-operatively and her post-operative 
course was uncomplicated. Immediately post-op, her pain was 
controlled with a transversus abdominus plane block, 
hydromorphone PCA, and ketorolac.
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to oral 
acetaminophen, ibuprofen, and oxycodone. 
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She remained under observation 
in the hospital until post-operative day 2 for further 
monitoring and pain control. She was then discharged home in 
stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
1. Chlorthalidone 20 mg PO dialy
2. Lorazepam 1 mg PO PRN qHS 
3. Olanzapine 2.5 mg PO  daily
4. Oxaprozin 0.5-1 mg PO BID PRN for menstrual cramps
5. Trazodone 50 mg PO qHS 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Moderate 
Do not take more than 4,000 mg or 8 pills in 24 hours.  
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice per day 
with meals Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H mild to moderate pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six hours Disp 
#*60 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
Do not combine with lorazepam or trazodone. Do not drink alcohol 
or drive while taking. 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0 
5.  Chlorthalidone 25 mg PO DAILY  
6.  LORazepam 1 mg PO QHS:PRN insomnia, anxiety  
7.  OLANZapine 2.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic fibroid uterus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* You have staples, they will be removed at your at a brief 
follow-up visit in ___ days.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___